US06262040B1
1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (3-chloro-phenyl)-amide
This compound was prepared according to the method of Example 11, using 150 mg (0.581 mmol, 1.0 equiv) 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid and 68 μL (0.639 mmol, 1.1 equiv) 3-chloro-aniline as starting materials to give 211 mg (99%) of a clear oil; HRMS calcd for C21H22N3OCl+H: 368.1532. Found: 368.1567.

reactant | 1-cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid | 0.581 mmol, 150 mg, 1.0 equiv | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)O)CC | C15H18N2O2
reactant | 3-chloro-aniline | 0.639 mmol, 68 μL, 1.1 equiv | ClC=1C=C(N)C=CC1 | C6H6ClN
product | 1-Cyclopentyl-3-ethyl-1H-indazole-6-carboxylic acid (3-chloro-phenyl)-amide | 211 mg, 99% | ClC=1C=C(C=CC1)NC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC | C21H22ClN3O
